US08134004B2
Step A5B: N-[1-(3,4-Diaminophenyl)ethyl]-2-methylpropane-2-sulfinamide
A mixture of N-[1-(4-amino-3-nitrophenyl)ethyl]-2-methylpropane-2-sulfinamide (670 mg, 2.35 mmol) and 10% palladium-carbon (70 mg) in EtOH (50 ml) was stirred under hydrogen (4 atm) at room temperature for 6 hours. The mixture was filtered through a pad of Celite. The filtrate was concentrated to give 598 mg of the title compound as a brown solid. 1H NMR (300 MHz, CDCl3) δ ppm 1.22 (9H, s), 1.45 (3H, d, J=6.6 Hz), 3.50-3.32 (4H, m), 4.45-4.37 (1H, m), 6.71-6.65 (3H, m). A signal due to NH was not observed. MS (ESI) m/z 256 (M+H)+.

reactant | N-[1-(4-amino-3-nitrophenyl)ethyl]-2-methylpropane-2-sulfinamide | 2.35 mmol, 670 mg | NC1=C(C=C(C=C1)C(C)NS(=O)C(C)(C)C)[N+](=O)[O-] | C12H19N3O3S
solvent | EtOH | 50 ml | CCO | C2H6O
catalyst | palladium-carbon | 70 mg | [C].[Pd]
product | N-[1-(3,4-Diaminophenyl)ethyl]-2-methylpropane-2-sulfinamide | 598 mg | NC=1C=C(C=CC1N)C(C)NS(=O)C(C)(C)C | C12H21N3OS
